US05244908
Synthesis of 5-[3-(amino)propylthio]imidazo[1,2-a]pyridine
To a mixed solution of 10% potassium hydroxide (69.3 g, 105 mmoles) and dimethylsulfoxide (50 ml) was added S-[3-(amino)propyl]isothiourea.dihydrobromide (8.85 g, 39 mmoles) and the mixture was stirred at room temperature for 1.5 hours. To the reaction solution was added 5-chloroimidazo[1,2-a]pyridine (3.05 g, 20 mmoles), followed by stirring at room temperature for 1.5 hours and additional stirring at 65° C. for 20 hours. Water was added to the reaction solution, which was extracted with chloroform, washed several times with 1N-sodium chloride and dried over anhydrous magnesium sulfate. After the solvent was distilled off to obtain 2.66 g of the desired product (64.3%, pale yellow oily product).

reactant | potassium hydroxide | 105 mmoles, 69.3 g | [OH-].[K+]
reactant | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
reactant | S-[3-(amino)propyl]isothiourea.dihydrobromide | 39 mmoles, 8.85 g | Br.Br.NCCCSC(N)=N
reactant | 5-chloroimidazo[1,2-a]pyridine | 20 mmoles, 3.05 g | ClC1=CC=CC=2N1C=CN2 | C7H5ClN2
solvent | Water | O | H2O
product | 5-[3-(amino)propylthio]imidazo[1,2-a]pyridine | 2.66 g, 64.3% | NCCCSC1=CC=CC=2N1C=CN2 | C10H13N3S
